US03944675
A. N-[β-(3,4-Methylenedioxyphenyl)-ethyl]-1-adamantanecarboxamide
Dissolve 0.5 g. of homopiperonylamine in 5 ml. of ethyl ether and 2.5 ml. of triethylamine. The mixture is cooled in an ice-bath and a solution of 0.6 g. of 1-adamantane carboxylic acid chloride in 10 ml. of ethyl ether added dropwise. Stir the mixture for an additional 3 hours. Add water and extract the mixture with ethyl acetate. Wash the ethyl acetate extract with 2N hydrochloric acid, saturated sodium bicarbonate solution, and water. Dry over anhydrous sodium sulfate, filter and evaporate the filtrate to a residue. Crystallize the residue from ethyl acetate to obtain the product of this step, m.p. 146°-148°C.

reactant | homopiperonylamine | C(CC1=CC=2OCOC2C=C1)N | C9H11NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-adamantane carboxylic acid chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-[β-(3,4-Methylenedioxyphenyl)-ethyl]-1-adamantanecarboxamide | C1OC=2C=C(C=CC2O1)CCNC(=O)C12CC3CC(CC(C1)C3)C2 | C20H25NO3
